Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
clarithromycin
 
Attending: ___.
 
Chief Complaint:
___ yo male s/p MVC at high speed (collided with 2 cars and house 
trying to evade police) with fluctuating GCS and altered mental 
status with unknown injuries at time of arrival. Per EMS, 
patient complained of chest pain at scene, prompting transport 
to the emergency department. 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ male, unknown history, brought in by EMS after
high-speed MVC. Patient apparently was fleeing police in a
high-speed ___, going roughly 50 miles an hour, no front
end MVC, unknown if patient was restrained. Patient is on
ambulatory at the scene initially somewhat altered per
report, one point patient became unresponsive was given
Narcan with no improvement. Patient unable to provide HPI
 
Past Medical History:
Headache, migraine G43.909 
Hypercholesterolemia E78.00 
Dyspepsia R10.13 
Hyperplastic colon polyp K63.5 
Pterygium eye H11.009 
Essential hypertension I10 
Thyroid nodule E04.1 (benign cytology--subclinical 
hypothyroidism)
Metabolic syndrome E88.81 
Sleep apnea G47.30 
IGT (impaired glucose tolerance) 
Fatty liver 
 
Social History:
___
Family History:
Diabetes
Glaucoma 
 
Physical Exam:
On admission:
Constitutional: Comfortable
HEENT: Scattered abrasions across face, otherwise
atraumatic, Pupils equal, round and reactive to light,
Extraocular muscles intact
Oropharynx within normal limits
Chest: Clear to auscultation, abrasion to the chest,
diffusely tender
Cardiovascular: Regular Rate and Rhythm
Abdominal: Soft, Nontender, Nondistended
GU/Flank: No costovertebral angle tenderness, back
atraumatic
Extr/Back: Abrasions left upper extremity, tenderness left
upper extremity around elbow, abrasions bilateral lower
extremities
Skin: Warm and dry
Neuro: GCS 13 14
Psych: Intermittently confused

On Discharge:
Constitutional: Comfortable
HEENT: Scattered abrasions across face, otherwise
atraumatic, Pupils equal, round and reactive to light,
Extraocular muscles intact
Oropharynx within normal limits
Chest: Clear to auscultation, abrasion to the chest,
mildy tender 
Cardiovascular: Regular Rate and Rhythm
Abdominal: Soft, Nontender, Nondistended
GU/Flank: No costovertebral angle tenderness, back
atraumatic
Extr/Back: Abrasions left upper extremity, tenderness left
upper extremity around elbow, abrasions bilateral lower
extremities
Skin: Warm and dry
Neuro: GCS 15
Psych: A/Ox3, flat affect
 
Pertinent Results:
___ 11:31PM   LACTATE-2.0
___ 05:49PM   ___ PO2-69* PCO2-32* PH-7.38 TOTAL 
CO2-20* BASE XS--4 COMMENTS-GREEN TOP 
___ 05:49PM   LACTATE-4.7*
___ 05:49PM   O2 SAT-91
___ 05:40PM   HBsAg-NEG HBs Ab-NEG HBc Ab-NEG
___ 05:40PM   HIV Ab-NEG
___ 05:40PM   HCV Ab-NEG
___ 02:13PM   COMMENTS-GREEN TOP
___ 02:13PM   LACTATE-7.6*
___ 01:53PM   GLUCOSE-85 UREA N-14 CREAT-1.2 SODIUM-146 
POTASSIUM-4.5 CHLORIDE-102 TOTAL CO2-18* ANION GAP-26*
___ 12:00PM URINE  HOURS-RANDOM
___ 12:00PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-POS* amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 12:00PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 12:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-10* BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 12:00PM URINE  RBC-1 WBC-2 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 12:00PM URINE  HYALINE-7*
___ 12:00PM URINE  MUCOUS-RARE*
___ 10:30AM   GLUCOSE-80 UREA N-14 CREAT-1.5* SODIUM-144 
POTASSIUM-4.1 CHLORIDE-100 TOTAL CO2-7* ANION GAP-36*
___ 10:30AM   estGFR-Using this
___ 10:30AM   ALT(SGPT)-20 AST(SGOT)-26 ALK PHOS-78 TOT 
BILI-0.3
___ 10:30AM   cTropnT-<0.01
___ 10:30AM   ALBUMIN-4.7 CALCIUM-9.4 PHOSPHATE-4.9* 
MAGNESIUM-2.5
___ 10:30AM   WBC-13.4* RBC-5.80 HGB-18.0* HCT-55.2* MCV-95 
MCH-31.0 MCHC-32.6 RDW-14.6 RDWSD-50.5*
___ 10:30AM   NEUTS-69.6 ___ MONOS-3.3* EOS-0.4* 
BASOS-0.5 IM ___ AbsNeut-9.30* AbsLymp-3.39 AbsMono-0.44 
AbsEos-0.05 AbsBaso-0.07
___ 10:30AM   ___ PTT-27.5 ___
___ 10:30AM   PLT COUNT-349

Imaging: 
CT Spine w/o Contrast
No cervical spine fracture or malalignment.

CT Head w/o Contrast
Mildly motion degraded exam without visualized acute 
intracranial process.

CT ABD/Pelvis with Contrast
- The examination is limited by patient motion. Within the 
limits of the study: 
    No visualized acute intrathoracic or intra-abdominal injury. 
 No free-fluid within the abdomen and pelvis.  No visualized 
fracture. 

Portable CXR 
Lung volumes are relatively low.  Lungs are grossly clear.  
There is no 
consolidation.  No obvious effusion or pneumothorax based on a 
supine film.  Cardiomediastinal silhouette is within normal 
limits.  No displaced fractures 

Left hand PA/Lat
No fracture. 
Small amount of extravasated contrast in the subcutaneous 
tissues along the lateral aspect of the distal forearm. 

Left forearm AP/Lat
There is no fracture.  No focal osseous abnormality.  No elbow 
joint effusion. High-density material compatible with 
extravasated contrast seen along the lateral aspect of the 
distal forearm. 

Shoulder/Glenohumeral Joint (left)
  Glenohumeral joint is anatomically aligned.  Mild 
degenerative changes with spurring noted at the left 
acromioclavicular joint.  Included portion of left hemithorax 
and overlying soft tissues are 
unremarkable. 

EKH--normal sinus rhythm/normal EKG
Vent. rate 84 BPM
PR interval 142 ms
QRS duration 82 ms
QT/QTc 352/415 ms
___ axes 46 -6 -13

 
Brief Hospital Course:
The patient was admitted to the General Surgical Service on 
___ for evaluation of a stat trauma status post high speed 
MVC with unknown injuries.  The patient had altered mental 
status on arrival, and was initially uncooperative with the 
examination. The trauma workup in the emergency department 
revealed no traumatic injuries that required surgical 
intervention at that time. Laboratory results revealed a 
positive toxicology screen for cocaine and an ethanol level of 
188, which likely contributed to an admission lactate level at 
7.6, which responded well with IV fluids and a dose of 
bicarbonate (downtrending to 2.0 on ___ a brief, 
uneventful stay in the PACU, the patient arrived on the floor 
tolerating regular diet, stable vital signs, afebrile, and in no 
acute distress.  The patient has no acute injuries and follow up 
is recommended with a primary care provider at his convenience 
in ___ weeks. He has no restrictions in diet or ambulation. 
Because he is in police custody at this time, he is to be 
discharged with BPD at this time. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. HydrOXYzine 25 mg PO AT BEDTIME 30 MINUTES PRIOR TO SLEEP IF 
NEEDED FOR ANXIETY 
3. ___ (liraglutide) 3 mg/0.5 mL (18 mg/3 mL) subcutaneous 
DAILY 

 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM  
2.  HydrOXYzine 25 mg PO AT BEDTIME 30 MINUTES PRIOR TO SLEEP IF 
NEEDED FOR ANXIETY  
3.  ___ (liraglutide) 3 mg/0.5 mL (18 mg/3 mL) subcutaneous 
DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
MOTOR VEHICLE ACCIDENT WITH UNSPECIFIED INJURIES
Lactic acidosis (resolved)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ on ___ for evaluation of 
potential injuries following a high speed motor vehicle 
accident. You received multiple scans and x-rays that determined 
you do not have any acute injuries as a result of the accident 
at this time. All cardiac workup was negative as well. It is not 
uncommon to feel some musculoskeletal pain after an injury like 
this. You do not have to follow up with our clinic, but can do 
so with your primary care provider within the next ___ weeks or 
if you are concerned about other symptoms. It is recommended to 
ambulate as tolerated, take all prior medications as prescribed 
prior to admission, and use CPAP/BiPAP devices as directed by 
your outside providers. You can resume a regular diet. On 
admission, you had an elevated lactate level that resolved with 
extra fluids during your stay. It is recommended to abstain from 
illicit drugs and alcohol on discharge. 
 
Followup Instructions:
___